US05641778
After reaction of (2S,4S,5S,7S)-{4-[4-(tert-butoxycarbonyl)amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonylcarbamoyl]-3-(4-methoxybutoxy)-phenoxy}-acetic acid (tert-butyl) ester (93 mg) in a 4N hydrochloric acid solution in dioxane (2 ml) at 0° C. for 45 minutes and then at room temperature for 13 hours, the solvent is rapidly concentrated under a high vacuum with vigorous stirring until frozen and is subsequently removed by lyophilisation. (2S,4S,5S,7S)-[4-(4-Amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonylcarbamoyl)-3-(4-methoxybutoxy)-phenoxy]-acetic acid is obtained: HPLC Rt =11.7 min. MS(FAB) m/e 610 (M+ +1).

reactant | (2S,4S,5S,7S)-{4-[4-(tert-butoxycarbonyl)amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonylcarbamoyl]-3-(4-methoxybutoxy)-phenoxy}-acetic acid (tert-butyl) ester | 93 mg | C(C)(C)(C)OC(COC1=CC(=C(C=C1)C(NC[C@@H](C[C@@H]([C@H](C[C@@H](C(C)C)C(NCCCC)=O)O)NC(=O)OC(C)(C)C)C(C)C)=O)OCCCCOC)=O | C41H71N3O10
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (2S,4S,5S,7S)-[4-(4-Amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonylcarbamoyl)-3-(4-methoxybutoxy)-phenoxy]-acetic acid | N[C@@H](C[C@H](CNC(=O)C1=C(C=C(OCC(=O)O)C=C1)OCCCCOC)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCCC)=O)O | C32H55N3O8
